US08084621B2
Synthesis of 2-methyl-N-(2-morpholinoethyl)-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide (II-5)
Similar procedure as Example 2, 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (S4) 0.2 g (1.0 mmol) and 2-morpholinoethanamine 0.27 g (2.1 mmol) was reacted to give 0.25 g (82%) of the titled compound as a white solid.

reactant | 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid | 1.0 mmol, 0.2 g | CC=1NC=2C(CCCC2C1C(=O)O)=O | C10H11NO3
reactant | 2-morpholinoethanamine | 2.1 mmol, 0.27 g | O1CCN(CC1)CCN | C6H14N2O
product | 2-methyl-N-(2-morpholinoethyl)-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide | 0.25 g, 82% | CC=1NC=2C(CCCC2C1C(=O)NCCN1CCOCC1)=O | C16H23N3O3
